US04209626
5-(3-Methoxyphenyl)-2(1H)-pyridinone
In the manner described in Example 20, heating 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-3-pyridinecarboxylic acid in quinoline provides the product of the Example.

reactant | 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-3-pyridinecarboxylic acid | COC=1C=C(C=CC1)C=1C=C(C(NC1)=O)C(=O)O | C13H11NO4
solvent | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 5-(3-Methoxyphenyl)-2(1H)-pyridinone | COC=1C=C(C=CC1)C=1C=CC(NC1)=O | C12H11NO2
